US04990660
345 g of 4-acetoxy-4'-acetylbiphenyl were suspended in 2.6 l of propionic acid. 2.6 g of cobalt(II) acetate, 10.1 g of manganese(II) acetate and 375 g of acetic anhydride were added to this suspension, and the mixture was heated to 110° C. The mixture was stirred for 15 minutes at 110° C., after which it was gassed with air via a valve in the base. After gassing had been carried out for 90 minutes at 110° C., the reaction was complete; the reaction mixture was discharged through the valve in the base, and the product was filtered off under suction and washed with petroleum ether. 291.3 g (84% yield) of acetoxybiphenylcarboxylic acid having a purity of 99.9% (HPLC) were obtained.

reactant | 4-acetoxy-4'-acetylbiphenyl | 345 g | C(C)(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O | C16H14O3
reactant | acetic anhydride | 375 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | propionic acid | 2.6 l | C(CC)(=O)O | C3H6O2
catalyst | cobalt(II) acetate | 2.6 g | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | manganese(II) acetate | 10.1 g | C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
product | acetoxybiphenylcarboxylic acid | 291.3 g, 84% yield | C(C)(=O)OC1=C(C(=CC=C1)C1=CC=CC=C1)C(=O)O | C15H12O4
